US07713997B2
Synthesis of 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-bromo-6-fluoro-7-(3-isopropylaminoazetidin-1-yl)-4-oxo-1,4-dihydroquinolin-3-carboxylic acid (compound 1)
N-isopropylazetidin-3-ylamine dihydrochloride (374 mg), 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinolin-3-carboxylic acid (518 mg), N-methylpyrrolidine (0.8 mL), lithium chloride (500 mg) and dimethyl sulfoxide (1.5 mL) were mixed, and the mixture was stirred at 50° C. for 4.5 hours. After the mixture had been left to cool, diethyl ether (10 mL) was added to the mixture and stirred, followed by removing the supernatant. The same procedure was repeated three times. Water (3 mL) was added to the residue, and the pH of the mixture was adjusted to 6 by use of aqueous citric acid solution. The formed solid was collected through filtration, washed three times with water (3 mL), then suspended in ethanol (10 mL), and stirred under heating. The formed solid was collected through filtration, and suspended in diisopropyl ether (10 mL), followed by stirring under heating. The heated suspension was filtrated to yield 410 mg of the title compound.

reactant | N-isopropylazetidin-3-ylamine dihydrochloride | 374 mg | Cl.Cl.C(C)(C)NC1CNC1
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-bromo-6,7-difluoro-4-oxo-1,4-dihydroquinolin-3-carboxylic acid | 518 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)F)F)=O)C(=O)O)F)F | C15H6BrF4N3O3
reactant | N-methylpyrrolidine | 0.8 mL | CN1CCCC1 | C5H11N
reactant | lithium chloride | 500 mg | [Cl-].[Li+]
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | dimethyl sulfoxide | 1.5 mL | CS(=O)C | C2H6OS
product | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-bromo-6-fluoro-7-(3-isopropylaminoazetidin-1-yl)-4-oxo-1,4-dihydroquinolin-3-carboxylic acid | 410 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Br)N1CC(C1)NC(C)C)F)=O)C(=O)O)F)F | C21H19BrF3N5O3
